US06051202
A second mixture, consisting of a solution of sodium aluminate and water glass, is neutralized by adding hydrochloric acid to form an aluminum silicate gel.

reactant | sodium aluminate | O=[Al-]=O.[Na+]
reactant | water glass | [O-][Si](=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | aluminum silicate | [Si]([O-])([O-])([O-])[O-].[Al+3].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Al+3].[Al+3].[Al+3] | InChI=1S/4Al.3O4Si/c;;;;3*1-5(2,3)4/q4*+3;3*-4
